US04370340
A mixture of methyl 2-oxo-5-chloro-6-bromo-3-benzothiazolineacetate (2.0 g), methanol (250 ml) and 10% sodium hydroxide aqueous solution (2.5 ml) was refluxed with stirring for 1.5 hours and then cooled with ice-water to give crystals, which were separated by filtration. The filtrate was concentrated under reduced pressure to give crystals. The combined crystals were dissolved in water (80 ml) under heating and then insoluble materials were removed by filtration. The filtrate was adjusted at pH 2-3 with 10% hydrochloric acid and cooled to give crystals, which were separated by filtration, washed with water and dried to give crystalline 2-oxo-5-chloro-6-bromo-3-benzothiazolineacetic acid (1.5 g).

reactant | methyl 2-oxo-5-chloro-6-bromo-3-benzothiazolineacetate | 2.0 g | O=C1SC2=C(N1CC(=O)OC)C=C(C(=C2)Br)Cl | C10H7BrClNO3S
reactant | methanol | 250 ml | CO | CH4O
reactant | sodium hydroxide | 2.5 ml | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | 2-oxo-5-chloro-6-bromo-3-benzothiazolineacetic acid | 1.5 g | O=C1SC2=C(N1CC(=O)O)C=C(C(=C2)Br)Cl | C9H5BrClNO3S
